US07741327B2
A mixture of (S)-2-[4-(3-chloro-2-fluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid methyl ester (0.87 g, 2.46 mmol) in tetrahydrofuran (15 mL) and water (5 mL) was treated with lithium hydroxide monohydrate (0.12 g, 2.85 mmol). The reaction was stirred at 25° C. for 2.5 h. At this time, the reaction was diluted with water (75 mL) and extracted with diethyl ether (1×75 mL). The aqueous layer was acidified with a 2N aqueous hydrochloric acid solution and then extracted with ethyl acetate (3×50 mL). The combined organics were dried over magnesium sulfate, filtered, rinsed with ethyl acetate and concentrated in vacuo to afford (S)-2-[4-(3-chloro-2-fluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid (0.75 g, 90%) as a light orange solid: HR-ES-MS m/z calculated for C16H17NO4FCl [M+H]+ 342.0903, observed 342.0904; 1H NMR (400 MHz, DMSO-d6) δ ppm 0.87 (d, J=6.5 Hz, 3H), 0.93 (d, J=6.5 Hz, 3H), 1.35-1.56 (m, 1H), 1.56-1.70 (m, 1H), 1.72-1.86 (m, 1H), 4.19 (d, J=18.2 Hz, 1H), 4.29 (d, J=18.2 Hz, 1H), 4.63 (dd, J=11.5, 4.3 Hz, 1H), 5.05 (s, 1H), 7.33 (td, J=8.3, 1.4 Hz, 1H), 7.49-7.55 (m, 1H), 7.57 (ddd, J=8.3, 6.8, 1.4 Hz, 1H), 12.92 (br. s., 1H).

reactant | (S)-2-[4-(3-chloro-2-fluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid methyl ester | 2.46 mmol, 0.87 g | COC([C@H](CC(C)C)N1C(C=C(C1)OC1=C(C(=CC=C1)Cl)F)=O)=O | C17H19ClFNO4
reactant | lithium hydroxide monohydrate | 2.85 mmol, 0.12 g | O.[OH-].[Li+]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | water | 5 mL | O | H2O
solvent | water | 75 mL | O | H2O
product | (S)-2-[4-(3-chloro-2-fluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid | 0.75 g, 90% | ClC=1C(=C(OC2=CC(N(C2)[C@H](C(=O)O)CC(C)C)=O)C=CC1)F | C16H17ClFNO4
